US07618961B2
Ethyl [2-({[5-(3-isoxazolyl)-2-thienyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 5-isoxazol-3-ylthiophene-2-sulfonyl chloride as described in the synthetic METHOD B to give a yellow solid (15.9 mg) with purity >90%. MS (pos) m/z 400.3.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 5-isoxazol-3-ylthiophene-2-sulfonyl chloride | O1N=C(C=C1)C1=CC=C(S1)S(=O)(=O)Cl | C7H4ClNO3S2
product | Ethyl [2-({[5-(3-isoxazolyl)-2-thienyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate | O1N=C(C=C1)C1=CC=C(S1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C14H13N3O5S3
